US06852831B2
Preparation of 2-(2,3-dihydrothieno[3,4-b][1,4]dioxin-2-yl)ethanol
9.06 g (45.2 mmol) of 3,4-di-n-propoxythiophene, 24.0 g (226 mmol) of 1,2,4-butanetriol and 0.09 g (0.5 mmol) of p-toluenesulphonic acid were heated to 150 to 160° C. (bath temperature) under N2 for 2 h. During this time, 5.89 g of distillate (substantially n-propanol) were collected. The cooled liquid was diluted with 50 ml of methylene chloride, washed to neutrality with water and the organic phase was dried over Na2SO4. After filtering and evaporating the methylene chloride at 1 mbar, distillation was then effected. According to 1H NMR spectroscopy, the fraction collected between 45 and 128° C. (1.63 g=19.4% of overall theoretical yield of transetherification products) consisted of approx. 81.5% of 2-(2,3-dihydrothieno[3,4-b][1,4]dioxin-2-yl)ethanol, 6.5% of 3,4-dihydro-2H-thieno[3,4-b][1,4]dioxepin-2-ylmethanol and 12% of 2,3,4,5-tetrahydrothieno[3,4-b][1,4]dioxocin-3-ol.

reactant | 3,4-di-n-propoxythiophene | 45.2 mmol, 9.06 g | C(CC)OC1=CSC=C1OCCC | C10H16O2S
reactant | 1,2,4-butanetriol | 226 mmol, 24.0 g | C(C(CCO)O)O | C4H10O3
reactant | p-toluenesulphonic acid | 0.5 mmol, 0.09 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-(2,3-dihydrothieno[3,4-b][1,4]dioxin-2-yl)ethanol | O1C=2C(OCC1CCO)=CSC2 | C8H10O3S
